US07232926B2
N-Isopropyl-N-(n-propyl)sulfamoyl chloride
52.6 g (0.356 mol) of sulfur trioxide as a 60% solution in 1,2-dichloroethane were added with stirring at from 0 to 5° C. within 25 min to a solution of 60.75 g (0.652 mol) of α-picoline in 400 ml of 1,2-dichloroethane, followed by washing with 80 ml of 1,2-dichloroethane and stirring for 15 min until the temperature rose to 22° C. 30 g (0.296 mol). of N-isopropyl-N-(n-propyl)amine were then added within 20 min with stirring and external cooling at from 20 to 30° C., followed by washing with 80 ml of 1,2-dichloroethane and stirring at 50° C. for 15 min. After cooling to 25° C., 54.6 g (0.356 mol) of phosphorus oxychloride were added with stirring and cooling to 25-30° C. within 15 min, followed by washing with 200 ml of 1,2-dichloroethane and heating to 75° C. After stirring at this temperature for 1 h, the reaction mixture was cooled and concentrated under reduced pressure, and the residue obtained was stirred 3 times with 200 ml each time of methyl tert-butyl ether. The methyl tert-butyl ether phases were decanted off and extracted twice with dilute hydrochloric acid. The organic phase was dried over magnesium sulfate, the drying agent was filtered off and the organic phase was concentrated. 55.1 g (91.3% of theory) of the title compound having a refractive index nD23=1.4605 were obtained. A gas chromatography analysis (column: Macherey and Nagel 25 m Optima 17 GC 9; pressure 14.5 psi; helium; column flow 0.6 ml/min; split, 30 ml/min; injector 280° C., detector 320° C.) showed a degree of purity of 96% (RT=11.87 min).

reactant | sulfur trioxide | 0.356 mol, 52.6 g | S(=O)(=O)=O | O3S
reactant | α-picoline | 0.652 mol, 60.75 g | N1=C(C=CC=C1)C | C6H7N
reactant | phosphorus oxychloride | 0.356 mol, 54.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 400 ml | ClCCCl | C2H4Cl2
product | N-Isopropyl-N-(n-propyl)sulfamoyl chloride | C(C)(C)N(S(=O)(=O)Cl)CCC | C6H14ClNO2S
